US04049559
a. Preparation of 3-(3,3-dimethylnorborn-2-yl)-propionic Acid
To refluxing acetic anhydride (1050 g., 10 moles), there is added dropwise over six hours a solution of camphene (136 g., 1 mole) and di-tert-butyl peroxide (0.1 mole, 14.6 g.). After complete addition, the mixture is heated at reflux for five hours. The cooled reaction mixture is concentrated under reduced pressure to leave a yellow-orange residual oil; 750 ml. of 2.5N NaOH is added to the residue which is then heated on the steam bath for one hour. The cooled solution is extracted once with ether, made acidic with concentrated HCl, and extracted thoroughly with ether. The dried (Na2SO4) ether extracts are concentrated under reduced pressure and the residue distilled under vacuum to give a colorless product, b.p. 141° C.-144° C./0.5 mm.

reactant | acetic anhydride | 10 moles, 1050 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | camphene | 1 mole, 136 g | C12C(C)(C)C(=C)C(CC1)C2 | C10H16
reactant | di-tert-butyl peroxide | 0.1 mole, 14.6 g | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | NaOH | 2.5N | [OH-].[Na+]
product | 3-(3,3-dimethylnorborn-2-yl)-propionic Acid | CC1(C(C2CCC1C2)CCC(=O)O)C | C12H20O2
